US07625914B2
1.8 g (27 mmol) of methylamine hydrochloride and then 0.4 g (6 mmol) of sodium cyanoborohydride are successively added to a solution of 1 g (5.4 mmol) of 5-bromopyridine-3-carbaldehyde in 20 ml of methanol. The reaction medium is stirred at room temperature for 2 days. The precipitate is filtered off and the filtrate is evaporated to dryness. The residue is taken up in dichloromethane and washed with water. After extraction, the organic phase obtained is washed with aqueous hydrochloric acid solution. The aqueous phase thus obtained is brought to pH 9 with aqueous sodium hydroxide solution and then extracted with dichloromethane. The organic phase thus obtained is dried over magnesium sulfate, filtered and concentrated under vacuum. The residue obtained is purified by chromatography on a column of silica eluted with a 9.5/0.5 dichloromethane/methanol mixture. 0.5 g (50%) of (5-bromopyrid-3-ylmethyl)methylamine is obtained.

reactant | methylamine hydrochloride | 27 mmol, 1.8 g | Cl.CN
reactant | sodium cyanoborohydride | 6 mmol, 0.4 g | C(#N)[BH3-].[Na+]
reactant | 5-bromopyridine-3-carbaldehyde | 5.4 mmol, 1 g | BrC=1C=C(C=NC1)C=O | C6H4BrNO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | (5-bromopyrid-3-ylmethyl)methylamine | 0.5 g, 50% | BrC=1C=C(C=NC1)CNC | C7H9BrN2
